### ISSUE TITLE
Sequence with case split

### ISSUE THREAD

**Issue by dranov** [verse-lab/lean-ssr#9]
In Coq, I can write something like:

```Coq
Lemma lastP s : last_spec s.
Proof. case: s => [|x s]; [left | rewrite lastI; right]. Qed.
```
Is there something similar in Ssrlean?

Currently I do the following, which is a bit verbose:

```Lean
theorem lastP (s : Seq α) : last_spec s := by
  scase: s => [|x s]
  { left }
  { srw lastI; right }
```
